US07550469B2
(1R,2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarbaldehyde.
A solution of oxalyl chloride (62 μl, 0.72 mmol) in anhydrous methylene chloride (10 ml) under N2 was cooled to −78° C. while stirring. Dimethy sulfoxide (104 μl, 1.44 mmol) was then added followed by a solution of {(1R,2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropyl}-methanol (0.135 g, .36 mmol) in anhydrous methylene chloride (10 ml). Stirring was continued at −78° for 35 minutes and then triethyl amine (1.0 ml, .7.3 mmol) was added. This solution was stirred for 4 hours and then removed from the cold bath, filtered, concentrated and chromatagraphed on silica gel with methylene chloride/methanol (95:5). The resultant pure aldehyde, (1R,2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarbaldehyde was verified by NMR and LC/MS, yielding 0.102 g, 76%.

reactant | oxalyl chloride | 0.72 mmol, 62 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Dimethy sulfoxide | 1.44 mmol, 104 μl | CS(=O)C | C2H6OS
reactant | {(1R,2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropyl}-methanol | .36 mmol, 0.135 g | FC(C=1C=CC2=C(SC=C2N2CCN(CC2)C[C@H]2[C@@H](C2)CO)C1)(F)F | C18H21F3N2OS
reactant | triethyl amine | 7.3 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (1R,2R)-2-[4-(6-Trifluoromethyl-benzo[b]thiophen-3-yl)-piperazin-1-ylmethyl]-cyclopropanecarbaldehyde | FC(C=1C=CC2=C(SC=C2N2CCN(CC2)C[C@H]2[C@@H](C2)C=O)C1)(F)F | C18H19F3N2OS
